Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
trazodone / Lyrica
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion
Malaise
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ y/o man with a
history of bicuspid aortic valve s/p AVR with CABG ___, HFpEF,
CKD stage IV, DMII, HTN, AF on warfarin who presents with
malaise.

History is taken with the assistance of a ___ 
nurse.
The patient reports that he has been feeling unwell for about a
year. He describes chest pain for the last 6 months, exertional.
He also reports shortness of breath, dizziness, and weakness 
with
exertion. His dizziness is positional. He also reports
intermittent palpitations.

In the ED, initial VS were: 6 98.2 81 153/100 15 97% RA  
Exam notable for: 
-tenderness over left side of precordium
-tenderness over left side of epigastrium (normal BS)
-JVP not elevated and no pedal edema 
ECG: Atrial fibrillation at 80 bp, LAD, no acute ischemic 
changes

Labs showed: BUN/Cr 40/4.1; H/H 8.1/26.0; INR 3.6; proBNP 11K;
trop 0.12; lactate 0.9
Imaging showed:  
- CXR: Stable moderate cardiomegaly with pulmonary vascular
congestion. No focal consolidation or pneumothorax. 
Consults: None 
Patient received: 
___ 01:21 PO Aspirin 324 mg 
___ 03:34 PO/NG HydrALAZINE 25 mg
Transfer VS were: 98.2 80 173/94 15 97% RA  

On arrival to the floor, patient initially reported ___ chest
pain, but on further questioning denied any chest pain at all.
Denies shortness of breath. Reports a chronic cough. No 
abdominal
pain, nausea, vomiting, changes in bowel habits. Describes
feeling weak. Notes that his urine has had an odor recently. He
reported abdominal/flank pain in the ED but does not have this
pain at present. No other complaints at this time.
 
REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI.  

 
Past Medical History:
Aortic Insufficiency
Atrial Fibrillation
Benign Prostatic Hyperplasia
Bicuspid Aortic Valve
Congestive Heart Failure, diastolic
coronary Artery Disease status post PTCA to LAD
Depression
Diabetes Mellitus, Insulin Dependent
Gastroesophageal Reflux Disease
Glaucoma
Gout
Hyperlipidemia
Hypertension
Hypothyroid
Neuropathy
 
Social History:
___
Family History:
Per OMR: Brother with lung cancer.
 
Physical Exam:
Admission exam:
VS: 97.6 ___ 94 2L  
GENERAL: Lying in bed in NAD  
HEENT: EOMI, PERRL, anicteric sclera, MMM  
NECK: JVP at ~10 cm
HEART: Irregular, S1/S2, no murmurs, gallops, or rubs  
LUNGS: Bibasilar crackles, L>R
ABDOMEN: BS+, soft, no tenderness to palpation in any quadrant;
no CVA tenderness
EXTREMITIES: ___ bilateral peripheral edema to the mid-shin 
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: Warm and well perfused, no excoriations or lesions, no
rashes  

Discharge exam:
Temp: 97.7 (Tm 97.7), BP: 169/99 (126-169/76-99), HR: 81
(72-82), RR: 18 (___), O2 sat: 96% (96-99), O2 delivery: RA,
Wt: 178.13 lb/80.8 kg  GENERAL: Sitting up in chair, NAD  
HEENT: pupils round and equal, anicteric sclera, MMM  
NECK: JVP <8cm.
HEART: RRR, systolic ejection murmur ___, no gallops or rubs  
LUNGS: CTAB, No wheeze or rhonchi. No crackles appreciated.
ABDOMEN: BS+, soft, no tenderness to palpation in any quadrant;
no CVA tenderness
EXTREMITIES: No ___ peripheral edema. 
NEURO: A&Ox3, moving all 4 extremities with purpose, strength
decreased proximal lower extremities bilaterally, +spasticity
noted in distal extremities 
SKIN: Warm and well perfused, no excoriations or lesions, no
rashes  
 
Pertinent Results:
Admission and notable labs:
___ 01:00AM BLOOD WBC-8.3 RBC-2.87* Hgb-8.1* Hct-26.0* 
MCV-91 MCH-28.2 MCHC-31.2* RDW-15.9* RDWSD-51.9* Plt ___
___ 01:00AM BLOOD ___ PTT-33.8 ___
___ 01:00AM BLOOD Glucose-105* UreaN-40* Creat-4.1* Na-141 
K-4.0 Cl-99 HCO3-31 AnGap-11
___ 01:00AM BLOOD ALT-9 AST-11 AlkPhos-85 TotBili-0.2
___ 01:00AM BLOOD Lipase-42
___ 01:00AM BLOOD CK-MB-3 ___
___ 01:00AM BLOOD cTropnT-0.12*
___ 06:05AM BLOOD CK-MB-3 cTropnT-0.10*
___ 08:00AM BLOOD proBNP-9248*
___ 01:00AM BLOOD Albumin-3.7 Calcium-9.5 Phos-4.2 Mg-2.6
___ 06:05AM BLOOD calTIBC-234* Ferritn-44 TRF-180*
___ 06:05AM BLOOD Calcium-9.6 Phos-4.3 Mg-2.6 Iron-51
___ 07:50AM BLOOD Cortsol-7.9 25VitD-25*
___ 08:00AM BLOOD TSH-1.6
___ 01:08AM BLOOD Lactate-0.9
___ 06:12AM URINE Blood-NEG Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 06:12AM URINE RBC-<1 WBC-1 Bacteri-FEW* Yeast-NONE 
Epi-0
___ 06:12AM URINE Hours-RANDOM UreaN-241 Creat-52 Na-47
___ 06:12AM URINE Color-Straw Appear-Clear Sp ___

Discharge labs:
___ 07:05AM BLOOD WBC-8.3 RBC-3.17* Hgb-9.1* Hct-28.5* 
MCV-90 MCH-28.7 MCHC-31.9* RDW-15.7* RDWSD-51.8* Plt ___
___ 07:05AM BLOOD ___ PTT-28.4 ___
___ 07:05AM BLOOD Glucose-121* UreaN-53* Creat-4.0* Na-139 
K-4.0 Cl-98 HCO3-28 AnGap-13

Imaging:
CXR IMPRESSION: ___
Stable moderate cardiomegaly with pulmonary vascular congestion. 
 No focal 
consolidation or pneumothorax. 

Abdominal Ultrasound ___:
FINDINGS: 
LIVER: The hepatic parenchyma appears coarsened.  The contour of 
the liver is smooth.  There is no focal liver mass.  The main 
portal vein is patent with hepatopetal flow.  There is no 
ascites.
 
BILE DUCTS: There is no intrahepatic biliary dilation.  The CHD 
measures 3.
 
GALLBLADDER: Cholelithiasis without gallbladder wall thickening.
 
PANCREAS: The head and body of the pancreas are within normal 
limits. The tail of the pancreas is not visualized due to the 
presence of gas.
 
SPLEEN: Normal echogenicity, measuring 9.7.
 
KIDNEYS: The right kidney measures 9.5.  The left kidney 
measures 11.3. 
Bilateral renal cysts are again noted, for instance on the right 
measuring 1.5 cm.  The kidneys are markedly echogenic suggestive 
of renal dysfunction.  No hydronephrosis on the right.  There is 
a left extrarenal pelvis and trace left hydronephrosis likely 
secondary to a mm echogenic focus in the proximal minimally 
dilated left ureter concerning for a calculus.
 
RETROPERITONEUM:  The visualized portions of aorta and IVC are 
within normal limits.
 
IMPRESSION: 
Echogenic kidneys compatible with renal dysfunction. Trace left 
hydronephrosis likely secondary to a 6 mm left proximal ureteral 
calculus.
Coarsened liver.  No focal lesions are demonstrated. 
Cholelithiasis.
 
Brief Hospital Course:
___ year old man with a history of bicuspid aortic valve status 
post AVR with CABG ___, HFpEF, CKD stage IV, DMII, HTN, AF on 
warfarin who presented with malaise and DOE.

ACTIVE ISSUES
=============
# Orthostatic hypotension:
# autonomic dysfunction:
This issue dominated hospital course. He was orthostatic on 
daily ortho VS checks and medications were adjusted to optimize 
his symptoms despite ongoing orthostasis. In an effort to 
balance his resting hypertension (with SBP in the 180s-200s 
frequently throughout admission), he was placed on amlodipine at 
increasing doses. This gave BP room to decrease his hydralazine 
given concern that as a potent vasodilator it was contributing 
the most to his orthostatic symptoms. Orthostatic hypotension 
was attributed to autonomic dysfunction in the setting of long 
standing DM and neuropathy. TSH, AM cortisol, vitamin D were 
wnl.

#Gait instability
#Peripheral neuropathy:
Gait instability witnessed by medical team and felt to be 
profound. Given his dense neuropathy, marked orthostasis, tibial 
pain, knee pain (likely due to OA), and ___ stiffness, there was 
concern that he would not improve with physical therapy. Patient 
frequently requested wheelchair throughout admission and team 
noted that work up for wheelchair was initiated as outpatient 
but he was declined. However, per ___ evaluation this admission 
he does qualify for wheelchair, and team contacted ___ Health 
___ for insurance approval in close conjunction with CM. A 
wheelchair request form was completed by medical team and CM was 
still attempting to file and obtain wheelchair for him. He was 
discharged home with home ___ and follow up visits should confirm 
whether wheelchair approval has been completed with ___ 
___.

# DOE
# Hypoxemic respiratory failure
# Acute on chronic diastolic heart failure exacerbation:
This was highest concern on initial admission but then quickly 
resolved. Patient presented with malaise, weakness, found to be 
hypoxemic on room air to low ___. Although his 
admission weight was below his dry weight (approximately 85 kg), 
he appeared mildly volume overloaded on exam with CXR showing 
pulmonary vascular congestion and BNK 11K (increased from 
prior). Suspected poorly controlled hypertension as most likely 
precipitant. No clear signs or symptoms of infection except 
possible urinary infection as below. Elevated troponin without 
ischemic changes on EKG, suspect demand ischemia in setting of 
poorly controlled hypertension. Subjective improvement after 
Lasix IV. Unfortunately, treatment was complicated by 
symptomatic orthostatic hypotension, likely in the setting of 
overdiuresis. Subsequently, diuresis was held briefly and blood 
pressure medications adjusted with good response. Patient was 
restarted on home torsemide 100 mg to maintain euvolemia
- Discharge weight: 80.8 kg
- Discharge creatinine: 4.0

# Hypertensive urgency:
Patient presented with poorly controlled hypertension, likely 
contributing to CHF exacerbation as above. He was initiated on 
amlodipine as above and hydralazine was decreased given 
orthostasis as above

# NSTEMI, Type II:
Patient noted to have elevated troponin on admission in setting 
of CKD, acute heart failure, hypertension. Intermittently 
reporting chest pain, but none upon arrival. EKG without acute 
ischemic change. Troponin down on morning labs and CK-MB was 
within normal limits. Hypertension and heart failure were 
treated as above.

# Left flank pain:
Patient reported this to his PCP and to the ED, but did not 
report this on admission. Ultrasound on ___ with trace left 
hydronephrosis with 6 mm left proximal ureteral calculus. The 
pain was well controlled with Tylenol.

# Acute on chronic anemia:
Chronic anemia secondary to CKD. Baseline Hb ___, now 8.1. No 
evidence of overt bleeding. Guaiac negative. Iron studies showed 
ACD.

# Chronic kidney disease stage V: Recent baseline Cr 3.7-4.4, 
4.1 on presentation and stable at discharge at 4.0.

CHRONIC
===============
# Obstructive sleep apnea: Not on CPAP; difficulty tolerating 
mask. Stable. Unchanged.

# Atrial fibrillation: CHADS2 = 4. Remained on Coumadin during 
admission with well controlled rates on home carvedilol

# Coronary artery disease: Status post CABG. Continued home ASA, 
statin, and carvedilol.

# Insulin dependent diabetes: Complicated by neuropathy. Last 
A1C 7.5 in ___. Home lantus was continued at reduced doses 
during admission and he will be discharged on this lower dose.

# BPH: Continued home finasteride.

# Depression: Continued home venlafaxine.

# GERD: Continued Omeprazole 20 mg PO BID.

# Glaucoma: Continued home eye drops and home artificial tears.

# Hypothyroidism: Continued home levothyroxine.

# Gout: continued renally dosed allopurinol

TRANSITIONAL ISSUES
===================
[] Note the ongoing efforts to obtain wheelchair for Mr. ___ 
___. He was initially declined prior to admission since ___ 
evaluation in his home felt he was independent at home. However, 
this does not seem to be the case during admission and inpatient 
___ agreed that wheelchair would be appropriate. Paperwork filed 
to insurance company to have wheelchair approved. Strongly 
recommend following up on this
[] Please follow up BP and orthostatic VS to determine if 
further adjustments should be made. Suggest that if resting BP 
is significantly elevated, would increase amlodipine to 10 
rather than increasing his vasodilators. Can also consider 
downtitration of carvedilol since he does not mount an 
appropriate HR response with orthostasis; this was not done as 
inpatient due to complaints of palpitations.
[] please check INR on ___ and fax to ___ ___
[] consider stopping allopurinol given renal impairment

CORE MEASURES
=============
# CODE: DNAR/DNI (confirmed)
# CONTACT:
Name of health care proxy: ___: son
Phone number: ___
Cell phone: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
4. Finasteride 5 mg PO DAILY 
5. Gabapentin 200 mg PO QHS 
6. Torsemide 100 mg PO DAILY 
7. HydrALAZINE 75 mg PO TID 
8. Warfarin 2.5 mg PO DAILY16 
9. Glargine 14 Units Breakfast
Glargine 8 Units Dinner
10. Venlafaxine XR 75 mg PO DAILY 
11. Omeprazole 20 mg PO BID 
12. Levothyroxine Sodium 75 mcg PO DAILY 
13. Calcitriol 0.25 mcg PO DAILY 
14. Aspirin 81 mg PO DAILY 
15. Allopurinol ___ mg PO DAILY 
16. TraZODone 100 mg PO QHS:PRN Insomnia 
17. Carvedilol 25 mg PO BID 
18. Lidocaine 5% Patch 1 PTCH TD DAILY 

 
Discharge Medications:
1.  amLODIPine 7.5 mg PO DAILY 
RX *amlodipine 5 mg 1.5 tablet(s) by mouth daily Disp #*45 
Tablet Refills:*0 
2.  Ramelteon 8 mg PO QHS:PRN insomia 
RX *ramelteon [Rozerem] 8 mg 1 tablet(s) by mouth at bedtime 
Disp #*30 Tablet Refills:*0 
3.  HydrALAZINE 20 mg PO TID 
RX *hydralazine 10 mg 2 tablet(s) by mouth three times a day 
Disp #*180 Tablet Refills:*0 
4.  Glargine 12 Units Breakfast
Glargine 6 Units Dinner 
5.  Warfarin 5 mg PO DAILY16 
RX *warfarin [Coumadin] 5 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
6.  Allopurinol ___ mg PO DAILY  
7.  Aspirin 81 mg PO DAILY  
8.  Atorvastatin 20 mg PO QPM  
9.  Calcitriol 0.25 mcg PO DAILY  
10.  Carvedilol 25 mg PO BID  
11.  Finasteride 5 mg PO DAILY  
12.  Gabapentin 200 mg PO QHS  
13.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
14.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
15.  Levothyroxine Sodium 75 mcg PO DAILY  
16.  Lidocaine 5% Patch 1 PTCH TD DAILY  
17.  Omeprazole 20 mg PO BID  
18.  Torsemide 100 mg PO DAILY  
19.  Venlafaxine XR 75 mg PO DAILY  
20.Equipment
Motorized wheelchair
ICD10 V00.832S 
ICD10 G90.09
ICD10 M62.81
21.Outpatient Lab Work
Please check INR on ___ and fax to ___
ICD I48.2

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Orthostatic hypotension
Autonomic dysfunction
Acute decompensated heart failure with preserved ejection 
fraction
Hypertensive urgency
Coronary artery disease s/p CABG with ST elevation myocardial 
infarction 

Secondary:
Hypertension
Chronic kidney disease
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

Why did you come to the hospital?
-You came to the hospital due to feeling weak and unwell.

What happened when you were in the hospital?
-You received Lasix to help you pee out extra fluid.
-You were found to be very unsteady on standing and got dizzy 
when standing up.
-We adjusted your medications to keep your blood pressure under 
control but also to prevent you from dropping your blood 
pressure too much when you stand up.
-We worked on getting you a wheelchair for use at home.

What should you do when you leave the hospital?
-Please follow up with the appointments we have arranged.
-Please take all medications as prescribed. There have been a 
few adjustments.

It was a pleasure taking care of you at ___.

Sincerely,
Your ___ care team
 
Followup Instructions:
___